US04208343
A solution of sublimed phthalic anhydride in ethyl acetate is reacted with a solution of anthranilonitrile in ethyl acetate to form 2'-cyanophthalanilic acid. The 2'-cyanophthalanilic acid is then boiled with acetic anhydride to convert the acid to 2'-cyanophthalanil. The 2'-cyanophthalanil is thereafter boiled in a mixture containing 2% potassium hydroxide and 2.4% hydrogen peroxide, cooled and neutralized with hydrochloric acid to cyclicize it and form isoindolo [2,1-a]quinazoline-5,11-dione. A similar procedure is set forth by Bogert and Hand, 24 J. Am. Chem. Soc., 1031 (1902) for preparing 2-methyl-4-ketodihydroquinazoline from N-acetylanthranilonitrile.

reactant | 2'-cyanophthalanilic acid | C(#N)C1=C(NC(C=2C(C(=O)O)=CC=CC2)=O)C=CC=C1 | C15H10N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
product | isoindolo [2,1-a]quinazoline-5,11-dione | C1=CC=CC=2C(N=C3N(C12)C(C=1C=CC=CC13)=O)=O | C15H8N2O2
